US08071778B2
2-(4-fluorophenyl)-6-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-4-(trifluoromethyl)pyridine.
2-(4-fluorophenyl)-6-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-4-(trifluoromethyl)pyridine (40 mg, 0.08 mmol), and formaldehyde (37 wt. % solution in water, 0.2 mL, 7.5 mmol) were combined in dichloromethane (2.0 mL) and cooled to 0° C. The reaction was treated with sodium triacetoxyborohydride (74 mg, 0.3 mmol) and a drop of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture was concentrated and purified by preparative HPLC which afforded 10.0 mg (27%) 1H-NMR (CD3OD, 400 MHz) δ 8.09 (m, 1H), 7.93 (m, 1H), 7.14-7.58 (m, 9H), 4.51 (q, 1H), 3.36-3.52 (m, 2H), 2.80-2.93 (m, 2H), 2.59-2.79 (m, 5H), 2.04-2.24 (m, 2H), 1.42 (d, 3H), LC: Tr=1.952 min HPLC Method 1. Mass spec.: 473.36 (MH)+.

reactant | 2-(4-fluorophenyl)-6-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-4-(trifluoromethyl)pyridine | 0.08 mmol, 40 mg | FC1=CC=C(C=C1)C1=NC(=CC(=C1)C(F)(F)F)C(C)OCC1(CCNCC1)C1=CC=CC=C1 | C26H26F4N2O
reactant | formaldehyde | 7.5 mmol, 0.2 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.3 mmol, 74 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 2-(4-fluorophenyl)-6-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-4-(trifluoromethyl)pyridine | FC1=CC=C(C=C1)C1=NC(=CC(=C1)C(F)(F)F)C(C)OCC1(CCN(CC1)C)C1=CC=CC=C1 | C27H28F4N2O
